US06288061B1
5-(4-Fluorophenyl)-2-(4-hydroxyphenyl)-N-(2-thiazolyl)-imidazole-4-carboxamide, 2-dimethylaminoethanol, triphenylphosphine and diethyl azodicarboxylate are reacted and treated in the same manner as in Example 24 to give 5-(4-fluorophenyl)-2-(4-(2-dimethylaminoethyloxy)phenyl)-N-(2-thiazolyl)imidazole-4-carboxamide.

reactant | 5-(4-Fluorophenyl)-2-(4-hydroxyphenyl)-N-(2-thiazolyl)-imidazole-4-carboxamide | FC1=CC=C(C=C1)C1=C(N=C(N1)C1=CC=C(C=C1)O)C(=O)NC=1SC=CN1 | C19H13FN4O2S
reactant | 2-dimethylaminoethanol | CN(CCO)C | C4H11NO
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | 5-(4-fluorophenyl)-2-(4-(2-dimethylaminoethyloxy)phenyl)-N-(2-thiazolyl)imidazole-4-carboxamide | FC1=CC=C(C=C1)C1=C(N=C(N1)C1=CC=C(C=C1)OCCN(C)C)C(=O)NC=1SC=CN1 | C23H22FN5O2S
